US04115575
53 g of 2-(3'-bromo-2'-hydroxy-propoxy)-3-chloropyrazine and 59 g of isopropylamine in 500 ml of methanol are boiled for 15 hours under reflux. The reaction mixture is then evaporated in a waterpump vacuum. The residue is partitioned between 2 N hydrochloric acid and ether. The hydrochloric acid phase is rendered alkaline with concentrated sodium hydroxide solution and extracted by shaking with ether. The ether extracts are washed with water, dried over sodium sulphate and evaporated in a waterpump vacuum. The residue crystallises from ether. 3-Chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine, melting point 99°-100° C., is thus obtained.

reactant | 2-(3'-bromo-2'-hydroxy-propoxy)-3-chloropyrazine | 53 g | BrCC(COC1=NC=CN=C1Cl)O | C7H8BrClN2O2
reactant | isopropylamine | 59 g | C(C)(C)N | C3H9N
solvent | methanol | 500 ml | CO | CH4O
product | 3-Chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine | ClC=1C(=NC=CN1)OCC(CNC(C)C)O | C10H16ClN3O2
